US07262212B2
A mixture of 4-bromobenzotrifluoride (3.00 g, 13.3 mmol), 4-benzylpiperazin-1-yl-amine (3.06 g, 16.0 mmol), palladium acetate (60 mg, 0.267 mmol), (S)-(−)-BINAP (174 mg, 0.280 mmol) and sodium tert-butoxide (1.92 g, 20.0 mmol) in toluene (60 ml) was refluxed under a nitrogen atmosphere for 7 hours. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with brine, dried over sodium sulfate, and then filtered. The filtrate was concentrated under reduced pressure, and the residue was then purified by silica gel column chromatography (n-hexane/acetone=4/1) to afford (4-benzylpiperazin-1-yl)-(4-trifluoromethylphenyl)amine (2.666 g, yield 59%) as a pale yellow oil.

reactant | 4-bromobenzotrifluoride | 13.3 mmol, 3.00 g | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | 4-benzylpiperazin-1-yl-amine | 16.0 mmol, 3.06 g | C(C1=CC=CC=C1)N1CCN(CC1)N | C11H17N3
reactant | sodium tert-butoxide | 20.0 mmol, 1.92 g | CC(C)([O-])C.[Na+]
reactant | Water | O | H2O
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.267 mmol, 60 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | (S)-(−)-BINAP | 0.280 mmol, 174 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
product | (4-benzylpiperazin-1-yl)-(4-trifluoromethylphenyl)amine | 2.666 g, yield 59% | C(C1=CC=CC=C1)N1CCN(CC1)NC1=CC=C(C=C1)C(F)(F)F | C18H20F3N3
